US07223781B2
Synthesis of N-hu 1-(2-chloroethyl)-4-chlorobenzenesulfonamide (Z19)
11.6 g (100 mmol) of 2-chloroethylamine HCl were suspended in dichloromethane. 13.8 g (175 mmol) of pyridine were added, the mixture was stirred for 10 minutes and then 15.8 g (75 mmol) of 4-chlorobenzenesulfonyl chloride, dissolved in dichloro-methane, were added dropwise. The reaction mixture was heated under reflux for 8-10 hours, then treated with water and adjusted to a pH of 1-2 using HCl. The organic phase was washed three times with 3% strength HCl and the aqueous phase was extracted by shaking 3-4 times with dichloromethane. The combined organic phases were dried using Na2SO4, evaporated in the and recrystallized from ethanol. The yield was 11 g.

reactant | 2-chloroethylamine HCl | 100 mmol, 11.6 g | Cl.ClCCN
reactant | pyridine | 175 mmol, 13.8 g | N1=CC=CC=C1 | C5H5N
reactant | 4-chlorobenzenesulfonyl chloride | 75 mmol, 15.8 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | HCl | Cl | ClH
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 1-(2-chloroethyl)-4-chlorobenzenesulfonamide | ClCCC1(CC=C(C=C1)Cl)S(=O)(=O)N | C8H11Cl2NO2S
